US08476297B2
To a solution of (S)-1-phenylpropan-2-amine (0.500 g, 3698 μmol) in benzene (5 mL) was added 4-iodobenzaldehyde (858 mg, 3698 μmol) and MgSO4 (1.000 g, 8308 μmol) and the suspension stirred at RT 4 h. The suspension was filtered and the solid washed with benzene (2×2 mL). The combined filtrates were concentrated to give (S)—N-(4-iodobenzylidene)-1-phenylpropan-2-amine as a yellow oil which was used without purification in the next step.

reactant | (S)-1-phenylpropan-2-amine | 3698 μmol, 0.500 g | C1(=CC=CC=C1)C[C@H](C)N | C9H13N
reactant | 4-iodobenzaldehyde | 3698 μmol, 858 mg | IC1=CC=C(C=O)C=C1 | C7H5IO
reactant | MgSO4 | 8308 μmol, 1.000 g | [O-]S(=O)(=O)[O-].[Mg+2]
solvent | benzene | 5 mL | C1=CC=CC=C1 | C6H6
product | (S)—N-(4-iodobenzylidene)-1-phenylpropan-2-amine | IC1=CC=C(C=N[C@H](CC2=CC=CC=C2)C)C=C1 | C16H16IN
